US06964974B2
To a solution of 2.47 g (7.35 mmol) 4-(4-Bromo-butoxy)-piperidin-1-carboxylic acid tert-butyl ester in 10 ml of CH2Cl2 was added 20 ml of 4N HCl in dioxane. The reaction-mixture was stirred for 2 h at RT and then concentrated under reduced pressure. The crude residue was suspended several times with Et2O and then dried in vacuo to yield 1.78 g (quantitative) of 4-(4-Brom-butoxy)-piperidine hydrogen chloride, MS: 236 (M+).

reactant | 4-(4-Bromo-butoxy)-piperidin-1-carboxylic acid tert-butyl ester | 7.35 mmol, 2.47 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OCCCCBr | C14H26BrNO3
reactant | HCl | 4N, 20 ml | Cl | ClH
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-Brom-butoxy)-piperidine hydrogen chloride | 1.78 g | Cl.BrCCCCOC1CCNCC1 | InChI=1S/C9H18BrNO.ClH/c10-5-1-2-8-12-9-3-6-11-7-4-9;/h9,11H,1-8H2;1H
